Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
.
Date: ___
Time: ___

_
________________________________________________________________

PCP: Dr. ___. 

CC: ___ pain

_
________________________________________________________________
HPI: 
___ Yo f, pmh of DVT and heterozygous Factor V leiden, presenting 
with intermittent chest pain x 3 months. Pain does not come with 
exertion or respiration. Last for minutes to hours. Been 
progressively worsening over the last few months. No shortness 
of breath, fevers, chills, cough, leg swelling. Is active and 
works out daily. Has +family history for early cardiac disease 
in father and grandfather. Was sent in for eval after phone call 
with pcp. ___ migraines, takes triptans sparingly, and has taken 
Ambien occasionally throughout the last few months. She 
developed R leg swelling ___ years ago which was evaluated with 
US which was negative and an MRI which per report was negative. 
She did 15 push ups on the morning of presentation without 
difficulty.
 
History of blood clot post op ___ years ago after knee surgery. 
Seen by hematologist with w/u at that time which showed Factor V 
Leiden, children are being tested. Recently had a plane ride to 
and from ___ >7 hr 1 month ago with train ride from ___ 4 
hours. Has noticed RLE swelling for about a month without pain 
or erythema. Chest pain started ___ weeks ago and mainly at 
rest, not with exertion. 

In ER: (Triage Vitals:
17:44 |2 |96.0 |63 |136/92 |16 100% RA )
Meds Given: IV fluids, heparin gtt, 
.
Radiology Studies: CTA
consults called.

.

PAIN SCALE: ___ 
.
REVIEW OF SYSTEMS:
CONSTITUTIONAL:  As per HPI
HEENT:  [X] All normal
RESPIRATORY:  [X] All normal
CARDIAC:  [+] chest pain
GI:  As per HPI
GU:  [X] All normal
SKIN:  [X] All normal
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
All other systems negative except as noted above

 
Past Medical History:
LEFT HIP PAIN 
KNEE PAIN 
FACTOR V ___ 
Surgical History Last Updated: ___  
KNEE SURGERY 
 
 

 
Social History:
___
Family History:
Mother BREAST CANCER 
Father CORONARY ARTERY DISEASE 
  STROKE 
MGF ALZHEIMER'S DISEASE 

 
Physical Exam:
Vitals: 97.5PO 128 / 86 Sitting 64 18 98 ra 
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
back:  
MSK:no c/c/e 2+pulses 
R leg with 1+ edema compared to R
No palpable cords 
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  and pleasant
LAD: No cervical LAD

Discharge PE
VS:T 97.8 BP 115 / 82 HR 65 RR 16 O2 sat 97 RA  
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
back:  
MSK:no c/c/e 2+pulses 
R leg with 1+ edema compared to R
No palpable cords 
SKIN: no rash  
NEURO: face symmetric speech fluent  
PSYCH: calm, cooperative  and pleasant
LAD: No cervical LAD

 
Pertinent Results:
___ 01:00AM   cTropnT-<0.01
___ 08:34PM   D-DIMER-829*
___ 08:15PM   GLUCOSE-102* UREA N-11 CREAT-0.9 SODIUM-139 
POTASSIUM-3.6 CHLORIDE-100 TOTAL CO2-29 ANION GAP-14
___ 08:15PM   estGFR-Using this
___ 08:15PM   WBC-5.5 RBC-4.10 HGB-12.9 HCT-39.2 MCV-96 
MCH-31.5 MCHC-32.9 RDW-13.1 RDWSD-45.7
___ 08:15PM   NEUTS-43.1 ___ MONOS-9.4 EOS-2.3 
BASOS-0.4 AbsNeut-2.39 AbsLymp-2.48 AbsMono-0.52 AbsEos-0.13 
AbsBaso-0.02
___ 08:15PM   PLT COUNT-245
___ 08:10PM   cTropnT-<0.01
___ 08:10PM   ___ PTT-31.5 ___
===================================
ADMISSION b/l lower extremity US:
1. Nonocclusive thrombus in a single right peroneal vein (calf 
vein). 
2. No evidence of deep venous thrombosis in the leftlower 
extremity veins. 
========================
ADMISSION CTA
IPRESSION:  
  
Evaluation of the segmental and subsegmental pulmonary arteries 
is limited by timing of contrast bolus. There is an equivocal 
linear filling defect in
right lower lobe subsegmental pulmonary arteries, may represent 
a pulmonary embolus of undetermined age. There is no pulmonary 
infarction or CT evidence of right heart strain. 
 ==============
ECG: SR at 60 bpm, no acute changes

DISCHARGE LABS:

___ 06:30AM BLOOD WBC-4.7 RBC-3.59* Hgb-11.6 Hct-34.4 
MCV-96 MCH-32.3* MCHC-33.7 RDW-13.0 RDWSD-45.5 Plt ___
___ 08:34PM BLOOD D-Dimer-829*
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with h/o DVT provoked from 
surgery and factor V Leiden who presents with DVT and probable 
PE after ?long train/plan ride

# Acute RLE DVT/Subacute PE - in the setting of Factor V Leiden 
and 2 provoked DVTs would recommend lifelong anticoagulation. 
suboptimal exam for PE on CTA 
- plan to start xarelto 15 BID x 21 days then 20 mg on ___
.
# Atypical left sided chest pain - reproducible on exam. No 
pleuritic component. Less likely PE this may be costochondritis 
or MSK? Better with rest. Will continue to monitor. 

Recommend UTD mammogram and colonoscopy and pelvic screening for 
cervical cancer
.
MIGRAINE:
- None currently but can order sumatriptan PRN 
. 
Diet: Regular
Code: Full
Discharge: To home

___, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sumatriptan Succinate 50 mg PO PRN MIGRAINE migraine 
2. ZOLMitriptan 5 mg oral PRN 
The Preadmission Medication list is accurate and complete.
1. Sumatriptan Succinate 50 mg PO PRN MIGRAINE migraine 
2. ZOLMitriptan 5 mg oral PRN 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID Duration: 21 Days 
Please take 15 mg twice daily x 21 days then switch to the 20 mg 
tab daily. ICD9 415.1 + 289.81 
RX *rivaroxaban [Xarelto] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*41 Tablet Refills:*0 
2.  Rivaroxaban 20 mg PO DAILY 
Please start taking AFTER completing 21 days of 15 mg twice 
daily  ICD9 415.1 + 289.81 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*90 Tablet Refills:*1 
3.  Sumatriptan Succinate 50 mg PO PRN MIGRAINE migraine  
4.  ZOLMitriptan 5 mg oral PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Pulmonary Embolism
Acute DVT of RLE
Factor V Leiden

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

It was a pleasure taking care of you during your 
hospitalization. You presented with chest pain that was due to a 
blood clot in your lung that likely came from a blood clot in 
your leg. This is likely due to your factor V Leiden and we 
would recommend that you always stay on a blood thinner. 

You do need to be screened for mammogram and colonoscopy, which 
we will address with your PCP. We have started you on a new 
medication called Xarelto was called in to the ___. 

You will start with 15 mg twice daily with first dose tonight 
for 21 days. This will end the evening of ___. Then you will 
start 20 mg every day on ___. 

Please do not miss ___ medication as this can be a higher risk of 
new clot. It is ok to take your medication a few hours late 
rather than not at all.
 
Followup Instructions:
___